US07544697B2
Under a nitrogen atmosphere, boron tribromide (6 mL of a 1 M solution in dichloromethane) was added to a solution of 1-[4-amino-2-(2-methoxyethyl)-2H-pyrazolo[3,4-c]quinolin-1-yl]-2-methylpropan-2-ol (0.500 g, 1.59 mmol) in dichloromethane (8 mL), and the reaction was stirred for four hours. The dichloromethane was removed under reduced pressure, and the residue was dissolved in a mixture of ethanol and 3 N hydrochloric acid. A solution of 7 N ammonia in methanol was added, and then the solvent was removed under reduced pressure. The treatment with ammonia and the concentration were repeated two more times. The crude product was purified by chromatography using a HORIZON HPFC system (40+M cartridge, eluting with 0-30% CMA in chloroform) followed by trituration with acetonitrile and recrystallization from acetonitrile to provide 115 mg of 1-[4-amino-2-(2-hydroxyethyl)-2H-pyrazolo[3,4-c]quinolin-1-yl]-2-methylpropan-2-ol as white crystals, mp 196-198° C.

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 1-[4-amino-2-(2-methoxyethyl)-2H-pyrazolo[3,4-c]quinolin-1-yl]-2-methylpropan-2-ol | 1.59 mmol, 0.500 g | NC1=NC=2C=CC=CC2C=2C1=NN(C2CC(C)(O)C)CCOC | C17H22N4O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 1-[4-amino-2-(2-hydroxyethyl)-2H-pyrazolo[3,4-c]quinolin-1-yl]-2-methylpropan-2-ol | 115 mg | NC1=NC=2C=CC=CC2C=2C1=NN(C2CC(C)(O)C)CCO | C16H20N4O2
